US05179085
A solution of tetra-n-butylammonium thioacetate (12.8 g, 0.041 mol) and diethyl chloromethylphosphonate (5 g, 0.027 mol) is stirred in tetrahydrofuran (30 ml) overnight at room temperature. After evaporation of the solvent, the residue is purified by silica gel chromatography (2:1 heptane:acetone as eluant) to give diethoxyphosphinylmethylthioacetate (4.3 g). 1H-NMR: 4H, m, 4.20-4.11 ppm; 2H, d, 3.23; 3H, s, 2.40; 6H, m, 1.33.

reactant | tetra-n-butylammonium thioacetate | 0.041 mol, 12.8 g | C(C)(=S)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | diethyl chloromethylphosphonate | 0.027 mol, 5 g | ClCP(OCC)(OCC)=O | C5H12ClO3P
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | diethoxyphosphinylmethylthioacetate | 4.3 g | C(C)OP(=O)(OCC)COC(C)=S | C7H15O4PS
